US08404677B2
(E)-Ethyl 4-(2-(dimethylamino)vinyl)-2-(methylthio)-6-(3-(trifluoromethyl)phenylamino)pyrimidine-5-carboxylate
The title compound was prepared as described in Example 1e by starting from ethyl 4-methyl-2-(methylthio)-6-(3-(trifluoromethyl)phenylamino)pyrimidine-5-carboxylate 1.76 g (4.74 mmol) and N,N-dimethyl formamide dimethylacetal (947 uL, 7.1 mmol) and continuing until the reaction yielded the crude title compound. This was used for the next step without further purification.

reactant | ethyl 4-methyl-2-(methylthio)-6-(3-(trifluoromethyl)phenylamino)pyrimidine-5-carboxylate | 4.74 mmol, 1.76 g | CC1=NC(=NC(=C1C(=O)OCC)NC1=CC(=CC=C1)C(F)(F)F)SC | C16H16F3N3O2S
reactant | N,N-dimethyl formamide dimethylacetal | 7.1 mmol, 947 uL | COC(N(C)C)OC | C5H13NO2
product | (E)-Ethyl 4-(2-(dimethylamino)vinyl)-2-(methylthio)-6-(3-(trifluoromethyl)phenylamino)pyrimidine-5-carboxylate | CN(/C=C/C1=NC(=NC(=C1C(=O)OCC)NC1=CC(=CC=C1)C(F)(F)F)SC)C | C19H21F3N4O2S
